US08877782B2
(S)-2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-3-phenyl-propionic acid
To a suspension of (S)-2-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-3-phenyl-propionic acid methyl ester (100 mg, 0.21 mmol) in THF (1 mL) and methanol (0.29 mL) was added a solution of lithium hydroxide monohydrate (25.4 mg, 1.0 mmol) in water (0.74 mL) added and the resulting mixture stirred at room temperature for 2 h. The mixture was acidified to pH 4 with HCl (1 N, 30 mL) and the resulting mixture extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulfate and evaporated to afford the title compound (92 mg, 95%) which was obtained as a white solid. MS: m/e=470.1 [M−H]−.

reactant | (S)-2-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-3-phenyl-propionic acid methyl ester | 0.21 mmol, 100 mg | COC([C@H](CC1=CC=CC=C1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C27H25N3O5
reactant | lithium hydroxide monohydrate | 1.0 mmol, 25.4 mg | O.[OH-].[Li+]
reactant | HCl | 1 N, 30 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.29 mL | CO | CH4O
solvent | water | 0.74 mL | O | H2O
product | (S)-2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-3-phenyl-propionic acid | 92 mg, 95% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C26H23N3O5
